US06348474B1
Dimethyl 2-((N-acetyl)-(2,4-dichlorobenzyl)amino)terephthalate
A mixture of dimethyl 2-(2,4-dichlorobenzyl)aminoterephthalate (12.00 g), N,N-dimethylaniline (7.92 g) and acetyl chloride (5.5 ml) in toluene (140 ml) was heated at 50° C. for 15 hr. After cooling, ice and concentrated hydrochloric acid were added to acidify the reaction mixture and the toluene layer was separated. The toluene layer was washed successively with water and a saturated aqueous sodium hydrogencarbonate solution, dried over sodium sulfate and concentrated. The residue was crystallized from 2-propanol to give the objective compound (8.40 g) as white crystals.

reactant | dimethyl 2-(2,4-dichlorobenzyl)aminoterephthalate | 12.00 g | ClC1=C(CNC2=C(C(=O)OC)C=CC(=C2)C(=O)OC)C=CC(=C1)Cl | C17H15Cl2NO4
reactant | N,N-dimethylaniline | 7.92 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | acetyl chloride | 5.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | Dimethyl 2-((N-acetyl)-(2,4-dichlorobenzyl)amino)terephthalate | 8.40 g | C(C)(=O)N(C1=C(C(=O)OC)C=CC(=C1)C(=O)OC)CC1=C(C=C(C=C1)Cl)Cl | C19H17Cl2NO5
